US03996374
In a manner analogous to that described in Example 19, from 0.95 g. of o-benzoyl-p-chloro-phenylglyoxylic acid ethyl ester, 1.05 g. of 2-diethylaminoethylamine and 0.83 g. of formic acid, there is obtained 5-chloro-2-[2-(diethylamino)ethyl]-3-phenylisoindole-1-carboxylic acid ethyl ester hydrochloride; melting point 248°-250° C. (decomposition).

reactant | o-benzoyl-p-chloro-phenylglyoxylic acid ethyl ester | C(C)OC(C(=O)C1=C(C=C(C=C1)Cl)C(C1=CC=CC=C1)=O)=O | C17H13ClO4
reactant | 2-diethylaminoethylamine | C(C)N(CCN)CC | C6H16N2
solvent | formic acid | C(=O)O | CH2O2
product | 5-chloro-2-[2-(diethylamino)ethyl]-3-phenylisoindole-1-carboxylic acid ethyl ester hydrochloride | Cl.C(C)OC(=O)C=1N(C(=C2C=C(C=CC12)Cl)C1=CC=CC=C1)CCN(CC)CC | InChI=1S/C23H27ClN2O2.ClH/c1-4-25(5-2)14-15-26-21(17-10-8-7-9-11-17)20-16-18(24)12-13-19(20)22(26)23(27)28-6-3;/h7-13,16H,4-6,14-15H2,1-3H3;1H
